US04105776
1-[3-(triphenylmethylthio)-2-methylpropanoyl]-L-proline tert.butyl ester (5 g.) is dissolved in a mixture of anisole (55 ml.) and trifluoroacetic acid (110 ml.). After one hour storage at room temperature, the solvents are removed in vacuo and the residue is applied to a column of silica gel equilibrated with benzene:acetic acid (75:25) and eluted with the same solvent. The fractions corresponding to the component with Rf 0.40 (TLC silica gel with same system) are pooled and concentrated to dryness to yield 1-[3-mercapto-2-methylpropanoyl]-L-proline. Rf 0.62 (silica gel, chloroform/methanol: acetic acid:water 50:40:10), identical to the compound of Example 34.

reactant | 1-[3-(triphenylmethylthio)-2-methylpropanoyl]-L-proline tert.butyl ester | 5 g | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O)=O | C32H37NO3S
solvent | anisole | 55 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 110 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[3-mercapto-2-methylpropanoyl]-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C9H15NO3S
